US07652041B2
Step 5. Preparation of tert-butyl [4-(3-{3-[(3-tert-butylphenyl)amino]-3-oxopropyl}phenoxy)pyridin-2-yl]carbamate
To a solution of 3-[3-({2-[(tert-butoxycarbonyl)amino]pyridin-4-yl}oxy)phenyl]propanoic acid (333 mg, 0.93 mmol) in DCM (10 mL), were added 3-tert-butylaniline (152 mg, 1.02 mmol), DMAP (125 mg, 1.02 mmol) and then EDCI (196 mg, 1.02 mmol). The reaction was stirred for 18 h., and then diluted with DCM and washed with water and brine. The organic solution was dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to yield the title compound as a white solid (389 mg, 86%). LCMS: (FA) ES+ 490.2 (M+1), ES− 488.2 (M−1).

reactant | 3-[3-({2-[(tert-butoxycarbonyl)amino]pyridin-4-yl}oxy)phenyl]propanoic acid | 0.93 mmol, 333 mg | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)OC=1C=C(C=CC1)CCC(=O)O | C19H22N2O5
reactant | 3-tert-butylaniline | 1.02 mmol, 152 mg | C(C)(C)(C)C=1C=C(N)C=CC1 | C10H15N
reactant | EDCI | 1.02 mmol, 196 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.02 mmol, 125 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl [4-(3-{3-[(3-tert-butylphenyl)amino]-3-oxopropyl}phenoxy)pyridin-2-yl]carbamate | 389 mg, 86% | C(C)(C)(C)C=1C=C(C=CC1)NC(CCC=1C=C(OC2=CC(=NC=C2)NC(OC(C)(C)C)=O)C=CC1)=O | C29H35N3O4
